US07462624B2
Step C: 3-(3-benzyl-1,2,4-oxadiazol-5-yl)propanohydrazide
To a solution of 3-(3-benzyl-1,2,4-oxadiazol-5-yl)propanoic acid (1.0 g, 4.3 mmol) in THF (15 mL) was added N,N-carbonyldiimidazole (0.77 g, 4.7 mmol). After refluxing for 2 hours, hydrazine (0.6 g, 20 mmol) was added to the reaction mixture slowly with syringe at 0° C. The reaction mixture was allowed to warm to room temperature slowly and then concentrated to yield the desired product as white solid. LCMS calculated for C12H15N4O2 (M+H): 247.1; found: 247.1.

reactant | 3-(3-benzyl-1,2,4-oxadiazol-5-yl)propanoic acid | 4.3 mmol, 1.0 g | C(C1=CC=CC=C1)C1=NOC(=N1)CCC(=O)O | C12H12N2O3
reactant | N,N-carbonyldiimidazole | 4.7 mmol, 0.77 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | hydrazine | 20 mmol, 0.6 g | NN | H4N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-(3-benzyl-1,2,4-oxadiazol-5-yl)propanohydrazide | C(C1=CC=CC=C1)C1=NOC(=N1)CCC(=O)NN | C12H14N4O2
